US09428505B2
To a solution of (E)-1-(4-(2-(1,4-dioxa-8-azaspiro[4.5]decan-8-ylsulfonyl)vinyl)-3,5-dimethylphenyl)-5,5-dimeth ylimidazolidine-2,4-dione (1.2 g, 2.58 mmol) in tetrahydrofuran (26 mL), a 2 N aqueous hydrochloric acid solution (26 mL, 52 mmol) was added dropwise over ten minutes. The mixture was stirred at 60° C. for two hours. The reaction mixture was cooled, followed by adjustment of its pH to 7 using a 2 N aqueous sodium hydroxide solution, and this mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane-ethyl acetate) to afford (E)-1-(3,5-dimethyl-4-(2-((4-oxopiperidin-1-yl)sulfonyl)vinyl)phenyl)-5,5-dimethylimidazolidine-2,4-dione (998 mg, 92%).

reactant | (E)-1-(4-(2-(1,4-dioxa-8-azaspiro[4.5]decan-8-ylsulfonyl)vinyl)-3,5-dimethylphenyl)-5,5-dimeth ylimidazolidine-2,4-dione | 2.58 mmol, 1.2 g | O1CCOC12CCN(CC2)S(=O)(=O)/C=C/C2=C(C=C(C=C2C)N2C(NC(C2(C)C)=O)=O)C | C22H29N3O6S
reactant | hydrochloric acid | 52 mmol, 2 N, 26 mL | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | tetrahydrofuran | 26 mL | O1CCCC1 | C4H8O
product | (E)-1-(3,5-dimethyl-4-(2-((4-oxopiperidin-1-yl)sulfonyl)vinyl)phenyl)-5,5-dimethylimidazolidine-2,4-dione | 998 mg, 92% | CC=1C=C(C=C(C1\C=C\S(=O)(=O)N1CCC(CC1)=O)C)N1C(NC(C1(C)C)=O)=O | C20H25N3O5S
